US07098212B2
3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acrylic acid ethyl ester
To a solution of 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde (0.50 g, 1.19 mmol) in ethanol (10 mL) at 0° C. was added potassium carbonate (0.4 mL, 2.4 mmol, 6 M solution in water) and triethyl phosphonoacetate (0.47 mL, 2.4 mmol). The reaction was stirred at 0° C. for 2 hours, then at ambient temperature 12 hours. The reaction was diluted with ethyl acetate and filtered through a pad of celite. The filtrate was then washed with saturated aqueous sodium hydrogen carbonate and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel to give the title compound (0.51 g)

reactant | 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde | 1.19 mmol, 0.50 g | ClC=1C=CC(=C(C=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O3
reactant | potassium carbonate | 2.4 mmol, 6 M, 0.4 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acrylic acid ethyl ester | 0.51 g | C(C)OC(C=CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H30ClFN2O4
